US09168259B2
To a solution of 5.0 g (24.3 mmol) 2,6-dichloro-4-methyl-pyridine-3-carboxylic acid in DMF (73 ml) were added 5.0 g (36.4 mmol) K2CO3 and 7.6 ml (121.3 mmol) iodomethane at 0° C. The reaction mixture was stirred at RT for 3 h and was subsequently poured into water. This mixture was extracted with EtOAc and the organic layer was washed with water and brine, dried over Na2SO4 and concentrated in vacuo. Purification of the residue by CC (hexane/EtOAc 19:1) provided 5.2 g (23.7 mmol, 98%) 2,6-dichloro-4-methyl-pyridine-3-carboxylic acid methylester.

reactant | 2,6-dichloro-4-methyl-pyridine-3-carboxylic acid | 24.3 mmol, 5.0 g | ClC1=NC(=CC(=C1C(=O)O)C)Cl | C7H5Cl2NO2
reactant | K2CO3 | 36.4 mmol, 5.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 121.3 mmol, 7.6 ml | IC | CH3I
reactant | water | O | H2O
solvent | DMF | 73 ml | CN(C)C=O | C3H7NO
product | 2,6-dichloro-4-methyl-pyridine-3-carboxylic acid methylester | 23.7 mmol, 5.2 g, 98% | COC(=O)C=1C(=NC(=CC1C)Cl)Cl | C8H7Cl2NO2
